US06245804B1
4-(4-Acetyl-3-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid
Analogously to the compound above of 4-(4-bromo-3-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester, tributyl-1-ethoxyvinyltin, tri-o-tolylphosphine and bis-tri-o-tolylphosphine-palladium(II) chloride in dimethylformamide to 120° C., oil.

reactant | 4-(4-bromo-3-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)Br)OC)(C(F)(F)F)O)=O | C16H20BrF3O4
reactant | tributyl-1-ethoxyvinyltin | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Acetyl-3-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid | C(C)(=O)C1=C(C=C(C=C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C)OC | C16H19F3O5
